### PR TITLE
Bools theory

### PR DESCRIPTION
**Pull request by adilido99**
formalization of the Bools theory, and proving related theorems such as (boolean double negation, boolean commutativity, logical And Bool, AndThen Bool)

### CODE REVIEW

File: matching-logic/src/Theories/Bool_ProofSystem.v [hunk 1]
```diff
@@ -58,20 +59,454 @@ Open Scope ml_scope.
...
+    }
+    {
+      unfold theory in H. set_solver.
+    }
+  Qed.
+
+  
+  Theorem true_andBool : forall Γ , theory ⊆ Γ ->
+                        Γ ⊢ all mlBool,  b0 &&ml mlTrue =ml b0. 
+  Proof.
```
Comment (berpeti) [inline matching-logic/src/Theories/Bool_ProofSystem.v:237]: Please, format these (and the following) proof lines with indentation, just like in the previous proofs!

**Review by berpeti — APPROVED** [review]

**Review by berpeti — APPROVED** [review]
